US08110585B2
trans-tert-butyl{[2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropyl]methyl}carbamate
To a solution of trans-1-[2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropyl]methanamine (3.60 g, 17.9 mmol) and triethylamine (3.00 mL, 21.5 mmol) in tetrahydrofuran (90 mL) was added di-t-butyl dicarbonate (4.52 mL, 19.7 mmol) under ice-cooling, and the mixture was stirred at room temperature for 2 hr. The reaction solution was diluted with saturated aqueous sodium hydrogen carbonate solution. The solvent was evaporated under reduced pressure. The residue was diluted with ethyl acetate, washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=30/70→50/50) to give the title compound (4.98 g, yield 92%).

reactant | trans-1-[2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropyl]methanamine | 17.9 mmol, 3.60 g | CC1=NN2C(C(=CC=C2)[C@H]2[C@@H](C2)CN)=C1 | C12H15N3
reactant | triethylamine | 21.5 mmol, 3.00 mL | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 19.7 mmol, 4.52 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 90 mL | O1CCCC1 | C4H8O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | trans-tert-butyl{[2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropyl]methyl}carbamate | 4.98 g, yield 92% | C(C)(C)(C)OC(NC[C@H]1[C@@H](C1)C=1C=2N(C=CC1)N=C(C2)C)=O | C17H23N3O2
